US07323472B2
8-Ethyl-4-(2-fluoro-phenyl)-2-methylsulfanyl-8H-pyrido[2,3-d]pyrimidin-7-one
Prepared as described above in Example 108 starting from 4-(2-fluoro-phenyl)-2-methylsulfanyl-8H-pyrido[2,3-d]pyrimidin-7-one and iodoethane to afford the title compound 8-ethyl-4-(2-fluoro-phenyl)-2-methylsulfanyl-8H-pyrido[2,3-d]pyrimidin-7-one. LC MS (m/e)=316 (MH+). Rt=2.29 min

reactant | 4-(2-fluoro-phenyl)-2-methylsulfanyl-8H-pyrido[2,3-d]pyrimidin-7-one | FC1=C(C=CC=C1)C=1C2=C(N=C(N1)SC)NC(C=C2)=O | C14H10FN3OS
reactant | iodoethane | ICC | C2H5I
product | 8-ethyl-4-(2-fluoro-phenyl)-2-methylsulfanyl-8H-pyrido[2,3-d]pyrimidin-7-one | C(C)N1C(C=CC2=C1N=C(N=C2C2=C(C=CC=C2)F)SC)=O | C16H14FN3OS
